US08334305B2
N-(5-Hydroxymethyl-adamantan-2-yl)-3-phenoxy-benzamide
Prepared from 3-phenoxy benzoic acid and 4-amino-1-hydroxymethyladamantane to give the title compound as a mixture of two isomers. 1H NMR (400 MHz, CDCl3) δ: 7.31-7.49 (m, 5H), 7.08-7.18 (m, 2H), 7.02 (d, 2H), 6.29-6.43 (m, 1H), 4.13-4.23 (m, 1H), 3.24 (d, 2H), 2.09-2.18 (m, 2H), 2.01 (br. s., 1H), 1.55-1.92 (m, 10H), 1.44 (d, 1H).

reactant | 3-phenoxy benzoic acid | O(C1=CC=CC=C1)C=1C=C(C(=O)O)C=CC1 | C13H10O3
reactant | 4-amino-1-hydroxymethyladamantane | NC1C2CC3(CC(CC1C3)C2)CO | C11H19NO
product | N-(5-Hydroxymethyl-adamantan-2-yl)-3-phenoxy-benzamide | OCC12CC3C(C(CC(C1)C3)C2)NC(C2=CC(=CC=C2)OC2=CC=CC=C2)=O | C24H27NO3
